US04055597
A solution of (4S)-4-(2-tetrahydropyranyloxy)-nonanal (43.5 g., 0.18 mole) in diglyme (125 ml.) is treated with sodium borohydride (3.8 g., 0.10 mole). The temperature rises to 45° with the resulting exothermic reaction. The solution is stirred 4 hours, acidified with concentrated hydrochloric acid, and concentrated on the rotary evaporator. Water is added to the residue and the oily product is taken up in ether; washed with water and brine and dried over sodium sulfate. Evaporation of the ether leaves (4S)-4-(2-tetrahydropyranyloxy)-1-nonanol as a colorless oil to be used in the next step without further purification.

reactant | (4S)-4-(2-tetrahydropyranyloxy)-nonanal | 0.18 mole, 43.5 g | O1C(CCCC1)O[C@H](CCC=O)CCCCC | C14H26O3
reactant | sodium borohydride | 0.10 mole, 3.8 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | diglyme | 125 ml | COCCOCCOC | C6H14O3
product | (4S)-4-(2-tetrahydropyranyloxy)-1-nonanol | O1C(CCCC1)O[C@H](CCCO)CCCCC | C14H28O3
